US05059597
a) N-(1,1-Dimethoxyprop-2-yl)-urethane
80 g (0.73 mol) of ethyl chloroformate are added dropwise to 86.2 g (0.72 mol) of 2-aminopropionaldehyde dimethyl acetal in 350 ml of toluene and 32 g (0.8 mol) of NaOH in 300 ml of water. The mixture is stirred at room temperature for a further 2 hours, the organic phase is separated off, the aqueous phase is extracted with toluene and the toluene solutions are dried over K2CO3. The solution is concentrated and the residue is distilled.

reactant | ethyl chloroformate | 0.73 mol, 80 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-aminopropionaldehyde dimethyl acetal | 0.72 mol, 86.2 g | COC(C(C)N)OC | C5H13NO2
reactant | NaOH | 0.8 mol, 32 g | [OH-].[Na+]
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 ml | O | H2O
product | N-(1,1-Dimethoxyprop-2-yl)-urethane | COC(C(C)NC(=O)OCC)OC | C8H17NO4
